US07427683B2
a) 5-Cyano-furan-2-carboxylic acid
To 2.8 g of 2-formyl-5-furancarboxylic acid (20 mmol) and 2.7 g of hydroxylamine hydrochloride (40 mmol) under Ar was added and dry pyridine (50 mL). The mixture was heated to 85° C., acetic anhydride (40 mL) was added and the mixture was stirred for 3 h. After cooling to 60° C., water (250 mL) was added and the mixture was stirred at RT for 70 h. The mixture was acidified to pH 2 with concentrated hydrochloric acid and extracted with 3:1 dichloromethane-isopropanol (8×100 mL). The combined organic layers were washed with water (100 mL), brine (100 mL), dried over anh sodium sulfate and concentrated in vacuo to afford the title compound as a tan solid (1.26 g, 46%). 1H-NMR (CD3OD; 400 MHz): δ 14.05 (br s, 1H), 7.74 (d, 1H, J=3.8 Hz), 7.42 (d, 1H, J=3.8 Hz).

reactant | 2-formyl-5-furancarboxylic acid | 20 mmol, 2.8 g | C(=O)C=1OC(=CC1)C(=O)O | C6H4O4
reactant | hydroxylamine hydrochloride | 40 mmol, 2.7 g | Cl.NO
reactant | acetic anhydride | 40 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 250 mL | O | H2O
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 5-Cyano-furan-2-carboxylic acid | 1.26 g, 46% | C(#N)C1=CC=C(O1)C(=O)O | C6H3NO3
